US05236940
The procedure is as in Example 1, starting with 4-trifluoromethoxy-2-methylaniline (0.65 g), potassium thiocyanate (1.3 g) and bromine (0.35 cc) in acetic acid (12 cc). After purification on a column of silica (200 g; particle size: 0.063-0.200 mm), eluting with a cyclohexane/ethyl acetate mixture (50:50 by volume), the white solid obtained (0.65 g) is ground in cyclohexane (20 cc), drained and dried at 60° C. under reduced pressure (1 mm Hg; 0.13 kPa), to give 4-methyl-6-trifluoromethoxy-2-benzothiazolamine (0.6 g), m.p. 162° C.

reactant | 4-trifluoromethoxy-2-methylaniline | 0.65 g | FC(OC1=CC(=C(N)C=C1)C)(F)F | C8H8F3NO
reactant | potassium thiocyanate | 1.3 g | [S-]C#N.[K+]
reactant | bromine | 0.35 cc | BrBr | Br2
solvent | acetic acid | 12 cc | C(C)(=O)O | C2H4O2
solvent | cyclohexane | 20 cc | C1CCCCC1 | C6H12
product | 4-methyl-6-trifluoromethoxy-2-benzothiazolamine | 0.6 g | CC1=CC(=CC2=C1N=C(S2)N)OC(F)(F)F | C9H7F3N2OS
